US08426441B2
Preparation of 4-tert-Butyl-N-{3-[8-(3-ethyl-ureido)-imidazo[1,2-a]pyridin-6-yl]-2-methyl-phenyl}-benzamide
To N-[3-(8-Amino-imidazo[1,2-a]pyridin-6-yl)-2-methyl-phenyl]-4-tert-butyl-benzamide (53 mg, 0.133 mmol) in dichloromethane (5 mL) at 0° C. was added diisopropylethylamine (60 μL, 2.5 eq) and the resulting mixture was stirred for 5 minutes. Then at 0° C. with stirring was added a 20% phosgene solution in toluene (84 μL, 1.2 eq) all at once, and the resulting solution was stirred at 0° C. for 5 minutes. Next, ethylamine(g) was bubbled through the solution for about 2 minutes. Additional phosgene solution (0.25 mL) was added at 0° C. and stirred an additional 5 minutes. Finally, ethylamine(g) was bubbled through the solution again for about 2 minutes. The reaction was quenched by adding ethyl acetate (35 mL) and water (25 mL). The layers were partitioned and then separated and the organic layer was further washed with brine (1×25 mL) and finally dried over magnesium sulfate, filtered and concentrated. This crude product was purified by Preparative Thin Layer Chromatography, eluting with 5% methanol in dichloromethane to give the title compound as a foamy solid (17 mg) ((M+H)+=470).

reactant | N-[3-(8-Amino-imidazo[1,2-a]pyridin-6-yl)-2-methyl-phenyl]-4-tert-butyl-benzamide | 0.133 mmol, 53 mg | NC=1C=2N(C=C(C1)C=1C(=C(C=CC1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)C)C=CN2 | C25H26N4O
reactant | diisopropylethylamine | 60 μL, 2.5 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 84 μL, 1.2 eq | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-tert-Butyl-N-{3-[8-(3-ethyl-ureido)-imidazo[1,2-a]pyridin-6-yl]-2-methyl-phenyl}-benzamide | 17 mg | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=CC=C2)C=2C=C(C=3N(C2)C=CN3)NC(=O)NCC)C)C=C1 | C28H31N5O2
